US07494976B2
AP-Cav Inhibits Endothelium-dependent Relaxations of Isolated Blood Vessels
For isolated mouse aortic rings preparations, male C57 black mice (5-7 weeks of age) were anesthetized with methoxyflurane and sacrificed by exsanguination. The thoracic aorta was dissected and cut into cylindrical segments of three millimeters in length. Using a sterile 48-well tissue culture plate, each ring was incubated in a total volume of one ml with either peptides or vehicle (DMSO) diluted in DMEM supplemented with penicillin (100 units/ml), streptomycin (100 μg/ml) and L-glutamine (1 mM). The plate was incubated with 5% CO2. Following incubation with the peptides (one, six, twelve or twenty hours), rings were washed in oxygenated (95% O2-5% CO2) Krebs-Henseleit bicarbonate buffer solution (KHS) of the following composition (NaCl—118.3 mmol/L, KCl—4.7 mmol/L, CaCl2—2.5 mmol/L, MgSO4—1.2 mmol/L, KH2PO4—1.2 mmol/L, NaHCO3—25 mmol/L, glucose—5.6 mmol/L at 37° C. with ibuprofen (10 μM). The rings were suspended by two tungsten wires (25 mm thickness) inserted into the lumen and mounted in a vessel myograph system (five ml chamber, Kent Scientific). The mouse aortas were submitted to a resting tension of 1.5 grams and isometric tension was recorded using a force transducer coupled to a MacLab data acquisition system. Following a sixty minute equilibration period, with frequent washes, the rings were precontracted with phenylephrine (PE) (10 μM; sub maximal concentration) and concentrations of Ach (1 nM-10 μM), sodium nitroprusside (10 μM) or Nitro-L-Arginine Methyl Ester (L-NAME, 100 mM) were injected at the plateau of the PE contraction. In some experiments concentration-response curves to the contractile effects of PE were monitored.

reactant | methoxyflurane | COC(C(Cl)Cl)(F)F | C3H4Cl2F2O
reactant | penicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)[O-])C.[K+]
reactant | streptomycin | C[C@H]1[C@@]([C@H]([C@@H](O1)O[C@@H]2[C@H]([C@@H]([C@H]([C@@H]([C@H]2O)O)NC(=N)N)O)NC(=N)N)O[C@H]3[C@H]([C@@H]([C@H]([C@@H](O3)CO)O)O)NC)(C=O)O | C21H39N7O12
reactant | L-glutamine | 1 mM | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | CO2 | C(=O)=O | CO2
solvent | DMSO | CS(=O)C | C2H6OS
product | AP-Cav | CC(C)[N+]1([C@@H]2CC[C@H]1CC(C2)OC(=O)C(CO)C3=CC=CC=C3)C.CC(C)(C)NC[C@@H](C1=CC(=C(C=C1)[O-])CO)O.Cl | InChI=1S/C20H30NO3.C13H21NO3.ClH/c1-14(2)21(3)16-9-10-17(21)12-18(11-16)24-20(23)19(13-22)15-7-5-4-6-8-15;1-13(2,3)14-7-12(17)9-4-5-11(16)10(6-9)8-15;/h4-8,14,16-19,22H,9-13H2,1-3H3;4-6,12,14-17H,7-8H2,1-3H3;1H/q+1;;/p-1/t16-,17+,18?,19?,21?;12-;/m.0./s1
